### PR TITLE
Nat theory

### PR DESCRIPTION
**Pull request by adilido99**

### CODE REVIEW

File: matching-logic/src/Theories/Nat_ProofSystem.v [hunk 1]
```diff
@@ -25,29 +25,556 @@ Import MatchingLogic.Theories.Definedness_Syntax.Notations.
...
 Section nat.
   Context
     {Σ : Signature}
     {syntax : Nat_Syntax.Syntax}
   .
+  
+  Theorem forall_functional_subst_meta: 
+    ∀ (φ φ' : Pattern) (Γ : Theory),
+      Definedness_Syntax.theory ⊆ Γ
+        → mu_free φ
```
Comment (berpeti) [inline matching-logic/src/Theories/Nat_ProofSystem.v:75]: Please be consistent with the formatting to the other files (e.g., like in `Bool_ProofSystem.v`, `Definedness_ProofSystem.v`). Use `->` for the implication, do not use an additional indentation for each hypothesis please.

Comment (berpeti) [reply matching-logic/src/Theories/Nat_ProofSystem.v:75]: This also applies to the following theorems, lemmas.

File: matching-logic/src/Theories/Nat_ProofSystem.v [hunk 2]
```diff
@@ -25,29 +25,556 @@ Import MatchingLogic.Theories.Definedness_Syntax.Notations.
...
+    set_solver.
+    mlAdd H4.
+    mlApply "0".
+    simpl.
+    mlSplitAnd.
+    1: mlExactMeta H3.
+    mlExact "H".
+  Defined.
+    
+  Theorem unnamed:
```
Comment (berpeti) [inline matching-logic/src/Theories/Nat_ProofSystem.v:208]: This theorem should be renamed. How about `mu_free_evar_quantify`?

File: matching-logic/src/Theories/Nat_ProofSystem.v [hunk 3]
```diff
@@ -25,29 +25,556 @@ Import MatchingLogic.Theories.Definedness_Syntax.Notations.
...
+    wf_auto2.
+    now apply mu_free_wfp.
+    mlApplyMeta forall_functional_subst.
+    2-5:assumption.
+    mlSplitAnd.
+    * mlExactMeta H5.
+    * unfold is_functional in H4. mlExactMeta H4.
+  Defined.
+  
+  Theorem exists_functional_subst_meta:
```
Comment (berpeti) [inline matching-logic/src/Theories/Nat_ProofSystem.v:93]: The theorems which are not specific to bools, but are about `is_functional` patterns: please move these into `FOEquality_ProofSystem.v` for now. In a later phase, we should move all such theorems into a separate file.

File: matching-logic/src/Theories/Nat_ProofSystem.v [hunk 4]
```diff
@@ -25,29 +25,556 @@ Import MatchingLogic.Theories.Definedness_Syntax.Notations.
...
+    epose proof membership_symbol_ceil_aux_0 Γ (x) (y) (φ) _ _.
+    
+    apply universal_generalization with (x := x) in H5.
+    2: try_solve_pile.
+    2: wf_auto2.
+    
+    apply universal_generalization with (x := y) in H5.
+    2: try_solve_pile.
+    2:{ mlSimpl.
+        1:{ case_match. all:reflexivity. }
```
Comment (berpeti) [inline matching-logic/src/Theories/Nat_ProofSystem.v:348]: If you use the same idea for all of the goals, just use `all: case_match; reflexivity` please. If the idea is the same for most of them, use the `try` tactic to shorten this part.

File: matching-logic/src/Theories/Nat_ProofSystem.v [hunk 5]
```diff
@@ -25,29 +25,556 @@ Import MatchingLogic.Theories.Definedness_Syntax.Notations.
...
+      mlAssumption.
+    * mlIntro.
+      mlSplitAnd.
+      1: mlAssumption.
+      mlIntro.
+      mlAssumption.
+  Defined.
+  
+  (* nedd to change the name *)  
+  Theorem  something_v2:
```
Comment (berpeti) [inline matching-logic/src/Theories/Nat_ProofSystem.v:460]: Yes, please change the name. For example, `proved_membership_functional`?

File: matching-logic/src/Theories/Nat_ProofSystem.v [hunk 6]
```diff
@@ -25,29 +25,556 @@ Import MatchingLogic.Theories.Definedness_Syntax.Notations.
...
+                → Γ ⊢i  φ₂ ∈ml φ₁  using AnyReasoning .
+  Proof.
+    intros.
+    mlApplyMeta something_v2.
+    mlExactMeta H2.
+    mlExactMeta H3.
+    set_solver.
+  Defined.
+    
+  Theorem  something_v3:
```
Comment (berpeti) [inline matching-logic/src/Theories/Nat_ProofSystem.v:507]: If you do not use this one, please delete it.

File: matching-logic/src/Theories/Nat_ProofSystem.v [hunk 7]
```diff
@@ -25,29 +25,189 @@ Import MatchingLogic.Theories.Definedness_Syntax.Notations.
 
 Set Default Proof Mode "Classic".
 
+Require Import MatchingLogic.Theories.DeductionTheorem.
```
Comment (berpeti) [inline matching-logic/src/Theories/Nat_ProofSystem.v:28]: Why are these new imports needed? What failed without them?

File: matching-logic/src/Theories/Nat_ProofSystem.v [hunk 8]
```diff
@@ -25,29 +25,189 @@ Import MatchingLogic.Theories.Definedness_Syntax.Notations.
...
 Open Scope list_scope.
 
+  
 Section nat.
   Context
     {Σ : Signature}
     {syntax : Nat_Syntax.Syntax}
   .
 
+  Theorem  provable_iff_top:
```
Comment (berpeti) [inline matching-logic/src/Theories/Nat_ProofSystem.v:72]: Move this to `ProofMode/Propositional.v` please.

File: matching-logic/src/Theories/Nat_ProofSystem.v [hunk 9]
```diff
@@ -25,29 +25,189 @@ Import MatchingLogic.Theories.Definedness_Syntax.Notations.
...
+    intros.
+    mlSplitAnd.
+    2:{ mlIntro. mlExactMeta H0. }
+    mlIntro.
+    pose proof top_holds Γ.
+    use i in H1.
+    mlExactMeta H1.
+  Defined.
+    
+  Theorem  patt_and_id_r:
```
Comment (berpeti) [inline matching-logic/src/Theories/Nat_ProofSystem.v:87]: Move this to `ProofMode/Propositional.v` please.

File: matching-logic/src/Theories/Nat_ProofSystem.v [hunk 10]
```diff
@@ -25,29 +25,189 @@ Import MatchingLogic.Theories.Definedness_Syntax.Notations.
...
+      mlDestructAnd "0".
+      mlAssumption.
+    * mlIntro.
+      mlSplitAnd.
+      1: mlAssumption.
+      mlIntro.
+      mlAssumption.
+  Defined.
+  
+  Theorem proved_membership_functional:
```
Comment (berpeti) [inline matching-logic/src/Theories/Nat_ProofSystem.v:104]: Move this to `FOEquality_ProofSystem.v` please.

File: matching-logic/src/Theories/Nat_ProofSystem.v [hunk 11]
```diff
@@ -25,29 +25,189 @@ Import MatchingLogic.Theories.Definedness_Syntax.Notations.
...
+    mlSimpl. cbn.
+    rewrite evar_open_not_occur.
+    wf_auto2.
+    mlRewriteBy "0" at 1.
+    pose proof defined_evar Γ x H.
+    use AnyReasoning in H4.
+    mlExactMeta H4.
+  Defined.
+
+  Theorem proved_membership_functional_meta:
```
Comment (berpeti) [inline matching-logic/src/Theories/Nat_ProofSystem.v:133]: Move this to `FOEquality_ProofSystem.v` please.

File: matching-logic/src/Theories/Nat_ProofSystem.v [hunk 12]
```diff
@@ -106,11 +266,106 @@ Section nat.
     { set_solver. }
     { set_solver. }
   Defined.
+  
+  Lemma Svar_subst (Γ : Theory) (ϕ ψ : Pattern) (X : svar)  (i : ProofInfo)
```
Comment (berpeti) [inline matching-logic/src/Theories/Nat_ProofSystem.v:270]: Why is this here? Is this a new theorem, or did you just check it, and forgot to remove it?

File: matching-logic/src/Theories/Nat_ProofSystem.v [hunk 13]
```diff
@@ -25,29 +25,189 @@ Import MatchingLogic.Theories.Definedness_Syntax.Notations.
...
+    → well_formed (ex , φ) → Γ ⊢i ⌈ ex , φ ⌉ ---> (ex , ⌈ φ ⌉) using BasicReasoning
+     *)
+    (* mlApplyMeta patt_defined_and in "H".
+    2-3:admit.
+    mlDestructAnd "H".
+    mlApplyMeta ceil_propagation_exists_1 in "1".
+    2:set_solver. *)
+(*     rewrite bevar_subst_positive.
+    1:admit.
+    Search patt_exists derives_using.
```
Comment (berpeti) [inline matching-logic/src/Theories/Nat_ProofSystem.v:176]: In general, if a proof is ready, please remove all `Search`, `Check`, `About`, `Compute` and `Print` commands.

**Comment by adilido99** [comment]
All comments are resolved, ready to merge

File: matching-logic/src/Experimental/Nat_ProofSystem.v [hunk 14]
```diff
@@ -0,0 +1,993 @@
...
+  
+Section nat.
+  Context
+    {Σ : Signature}
+    {syntax : Nat_Syntax.Syntax}
+  .
+  
+(* suppose \phi is_functional 
+ *)
+  Theorem t1:
```
Comment (berpeti) [inline matching-logic/src/Experimental/Nat_ProofSystem.v:58]: Please, rename this to `membership_exists_subst`

**Review by berpeti — CHANGES_REQUESTED** [review]

**Comment by adilido99** [comment]
chnages made

**Review by berpeti — APPROVED** [review]
